US07423088B2
4.20 g (33 mmol) of cyclooctylamine and 0.1 g of dry LiCl are added under inert atmosphere to 70 ml of dry NMP and 15 ml of dry pyridine and cooled to 5° C. Then, 2.39 g (9 mmol) of 1,3,5-benzenetricarboxylic acid trichloride are added. The reaction mixture is heated to 75° C. and stirred. After 2 hours the reaction mixture is added to 300 ml of ice water. Customary work-up (recrystallization from N,N-dimethylformamide) gives 1,3,5-benzenetricarboxylic acid tris(cyclooctylamide).

reactant | cyclooctylamine | 33 mmol, 4.20 g | C1(CCCCCCC1)N | C8H17N
reactant | LiCl | 0.1 g | [Li+].[Cl-]
reactant | NMP | 70 ml | CN1CCCC1=O | C5H9NO
reactant | 1,3,5-benzenetricarboxylic acid trichloride | 9 mmol, 2.39 g | C1(=CC(=CC(=C1)C(=O)Cl)C(=O)Cl)C(=O)Cl | C9H3Cl3O3
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | 1,3,5-benzenetricarboxylic acid tris(cyclooctylamide) | C1(CCCCCCC1)NC(=O)C1=CC(=CC(=C1)C(=O)NC1CCCCCCC1)C(=O)NC1CCCCCCC1 | C33H51N3O3
